Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Desaturation with ambulation at outpatient clinic
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with history of AF on ___, HFpEF (EF55%), 
pHTN, mod-sev TR, s/p AAA repair ___, PVD s/p multiple stent 
placements, PFO, HTN, CKD (Cr 1.2-1.4), severe COPD not on home 
O2, lung CA s/p lobectomy ___ years ago, who presented from clinic 
with ambulatory desaturation. 

Patient reports he was feeling well at baseline when he 
presented to clinic appointment with Dr. ___. Reports 
baseline SOB with walking, but reports that he is able to walk 
even a mile without stopping. Recently completed pulmonary rehab 
last ___ and did a 6-minute walk test, without any reported 
desaturation per patient. 

At clinic, he was found to desat on ambulation to 69% on RA, 
with associated nausea. Chart reports concurrent SOB though 
patient denies this. He was put on 2L NC, and after rest with 
supplemental O2, HR 70 with O2 sat 96% so he was taken off NC.  

He reports having some LLE ankle pain for the past several days 
thought due to gout. No pain in calf or thigh.

Review of Partners records show: goal weight is 174-176 lbs. 
Patient reports dry weight to be 175 lbs, which he is at 
currently.  
 
On the floor,  patient reports history as above. Denies any 
symptoms and feels well. Notes that he had one other episode of 
feeling nauseous while walking sometime last week. No CP, SOB, 
orthopnea, palpitations, cough, abd pain, current N/V, urinary 
symptoms, diarrhea/constipation, ___. 

Please note his ___ records are scanned into OMR. Pt reports his 
___ cardiologist is a Dr. ___. His ___ pulmonologist is a Dr. 
___.
 
Past Medical History:
- Severe COPD 
- Chronic atrial fibrillation, on ___
- HFpEF 
- Chronic back pain on norco
- COPD (no intubation)
- Ruptured AAA s/p repair ___ 
- Non small cell lung cancer s/p  lobectomy ___ years ago
- PVD s/p multiple stent placements, R SFA stent ___, 
angioplasty L SFA ___ for L claudication, PTA of B EIA and 
stents ___
- HTN 
- HLD 
- CKD 
- Acute appendicitis S/P appendectomy 
- Gout  
- hemoptysis a few months ago, with CT at ___ showing bilateral
new 8mm pulmonary nodules (recommended f/u 6 months) 
 
Social History:
___
Family History:
Sister: Lung cancer ___ sisters died of lung cancer)
Sister: ___
Mother: stroke
 
Physical Exam:
#ERROR!
ADMISSION PHYSCIAL EXAMINATION:
#ERROR!

VITALS:  97.6PO 127 / 76 69 18 93 Ra 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric and without injection. Dry MM, wearing dentures.   
NECK: supple, JVP at clavicle at 45 deg
CARDIAC: irregularly irregular, Audible S1 and S2. No murmurs 
appreciated.   
LUNGS: CTAB, no wheezing or rhonchi, no increased work of 
breathing.
ABDOMEN: Normal bowels sounds, non distended, soft, non-tender 
to deep palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No ___ bl. ___ DP pulses bl. L ankle without 
obvious deformities, no erythema, no tenderness. 
SKIN: No rashes noted.  
NEUROLOGIC: A&Ox3, fluent speech, moving all extremities with 
purpose, no facial droop

#ERROR!
DISCHARGE PHYSCIAL EXAMINATION:
#ERROR!

VS: Temp 97.6 (Tm 97.6), BP 150/92 (127-150/76-92), HR 73
(69-73), RR 18, O2 sat 90% (90-93), RA, 

Weight: 175.71lb/79.7kg  

GENERAL: lying comfortably in bed, no acute distress 
HEENT: anicteric sclera, no conjunctival pallor, MMM
NECK: supple, non-tender, no LAD, JVP flat
CV: S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: moving all four extremities with purpose, no lower
extremity edema or cyanosis
NEURO: A/O x3, grossly intact
 
Pertinent Results:
#ERROR!
ADMISSION LABS:
#ERROR!

___ 06:10PM BLOOD WBC-8.8 RBC-4.77 Hgb-15.2 Hct-45.6 MCV-96 
MCH-31.9 MCHC-33.3 RDW-14.3 RDWSD-49.9* Plt ___
___ 06:10PM BLOOD ___ PTT-37.1* ___
___ 06:10PM BLOOD Glucose-94 UreaN-27* Creat-1.3* Na-143 
K-4.2 Cl-98 HCO3-30 AnGap-15
___ 06:10PM BLOOD proBNP-1549*
___ 06:10PM BLOOD cTropnT-<0.01

#ERROR!
MICRO:
#ERROR!

___ URINE
         URINE CULTURE:    < 10,000 CFU/mL. 

#ERROR!
IMAGING/REPORTS:
#ERROR!

___ CXR
Cardiac silhouette size is mildly enlarged. The aorta is 
unfolded. The 
mediastinal and hilar contours are unremarkable. Lungs are 
hyperinflated with severe emphysematous changes noted in the 
upper lobes. Pulmonary vasculature is not engorged. Elevation of 
the right hemidiaphragm is of unknown chronicity. Patchy 
atelectasis is seen in the lung bases without focal 
consolidation. No pleural effusion or pneumothorax is present.  
Multiple chronic left posterolateral rib fractures with 
associated pleural thickening are demonstrated. An aortic stent 
graft is incompletely imaged in the upper abdomen.

#ERROR!
DISCHARGE LABS:
#ERROR!

___ 08:20AM BLOOD WBC-9.2 RBC-4.52* Hgb-14.5 Hct-43.2 
MCV-96 MCH-32.1* MCHC-33.6 RDW-14.3 RDWSD-49.4* Plt ___
___ 08:20AM BLOOD ___ PTT-33.7 ___
___ 08:20AM BLOOD Glucose-89 UreaN-25* Creat-1.2 Na-145 
K-3.9 Cl-101 HCO3-30 AnGap-14
___ 08:20AM BLOOD Calcium-8.6 Phos-3.7 Mg-1.0*
 
Brief Hospital Course:
___ with a background history of AF (on ___, HFpEF (LVEF 
54% on ___, pulmonary hypertension, moderate-severe TR, PVD 
with multiple stents, PFO, HTN, CKD, severe COPD (not on home 
O2), and lung cancer, status post lobectomy ___ years ago, who 
presented from outpatient clinic with ambulatory desaturation.

#ERROR!
ACUTE/ACTIVE ISSUES:
#ERROR!

# Hypoxia on Exertion
# Dyspnea 
Patient with significant and pulmonary history, followed as an 
outpatient at ___, but at tending Dr. ___ second opinion. 
Noted to desaturate to 69% on ambulation, with associated 
dyspnea and nausea. Came back up to 96% with rest and 
supplemental oxygen. Examination within normal limits, CXR 
without acute cardiopulmonary abnormality, and patient was 
saturating well on room air, with no symptoms. Unclear exact 
etiology given multiple comorbidities, although must outrule 
inaccuracy of SaO2 result given known history of poor peripheral 
oxygen monitoring. Per patient, his has chronically bad pleths 
on his fingers and in the past has required O2 monitoring on his 
earlobe. He underwent ambulatory O2 testing wit a forehead 
monitor, with saturations mostly in the 88-92% range, but with 
one desat to 84% that was brief and asymptomatic. However, the 
patient did not want home O2 set up at this time and requested 
that he be reevaluated with his pulmonologist as an outpatient. 

# Hemoptysis 
# Pulmonary nodules 
# History of lung cancer 
Patient with hemoptysis reported a few months ago, now resolved. 
Ordered for chest CT in clinic with Dr. ___ history of 
smoking and prior lung cancer, status post lobectomy about ___ 
years ago, but patient declined and said he would do the study 
at
___. Per Dr. ___ consider switching from ___ to 
apixaban if hemoptysis continues 

# Pulmonary HTN: Followed by ___ pulmonology. Mostly 
precapillary pHTN. Recent
pulmonary note documents consideration of trialling tadalafil 
20mg, but patient denies this and he has never taken tadafil. 
Will need outpatient pulmonary follow up on discharge

# Hypomagnesemia: Unclear etiology/baseline. On torsemide at 
home. Was repleted inpatient and patient was discharged on a 
short PO course pending follow-up and repeat lytes with PCP. 

#ERROR!
CHRONIC ISSUES:
#ERROR!

# COPD: home Spiriva. Home symbicort was non-formulary, patient 
declined advair while in house given concerns for thrush. He 
received flu shot outpatient per chart 

# HFpEF: continued torsemide 5 daily. Patient takes torsemide on 
a sliding scale, depending on his
weight

# AF: home ___, diltiazem ER 120 daily, metop XL 200mg daily

# PAD status post multiple stents: Cont ___, statin 

# Gout: continued home allopurinol, colchicine 

#ERROR!
TRANSITIONAL ISSUES:
#ERROR!

[] On ambulation, patient maintained sats of 88-92%RA with a 
transient desat to 84%, not sustained. Please re-evaluate in 
clinic and consider set-up of home O2 if patient qualifies
[] Please ensure outpatient follow-up with pulmonology at ___
[] Consider CT chest in the outpatient setting; patient 
requested this be performed at ___
[] Per Dr. ___ consider switching from ___ to 
apixaban if hemoptysis continues 
[] Please repeat electrolytes within 1 week and consider 
discontinuing standing magnesium repletion if magnesium is 
normal/high

Weight on discharge: 79.7 kg (175.71 lb) 
Creatinine on discharge: 1.2

#CONTACT: ___, ___
 
Medications on Admission:
1. Allopurinol ___ mg PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. Atorvastatin 40 mg PO QPM 
4. azelastine 137 mcg (0.1 %) nasal BID:PRN 
5. Clotrimazole 1 TROC PO BID 
6. coenzyme Q10 30 mg oral DAILY 
7. Colchicine 1.2 mg PO DAILY 
8. Cyanocobalamin 100 mcg PO DAILY 
9. Diltiazem Extended-Release 120 mg PO DAILY 
10. Fexofenadine 60 mg PO DAILY 
11. Norco (HYDROcodone-acetaminophen) ___ mg oral Q6H:PRN 
12. Metoprolol Succinate XL 200 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Fish Oil (Omega 3) 1000 mg PO BID 
15. Omeprazole 20 mg PO DAILY 
16. Rivaroxaban 15 mg PO DAILY 
17. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Torsemide 5 mg PO DAILY 
20. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Magnesium Oxide 400 mg PO DAILY 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Ascorbic Acid ___ mg PO BID  
4.  Atorvastatin 40 mg PO QPM  
5.  azelastine 137 mcg (0.1 %) nasal BID:PRN  
6.  Clotrimazole 1 TROC PO BID  
7.  coenzyme Q10 30 mg oral DAILY  
8.  Colchicine 1.2 mg PO DAILY  
9.  Cyanocobalamin 100 mcg PO DAILY  
10.  Diltiazem Extended-Release 120 mg PO DAILY  
11.  Fexofenadine 60 mg PO DAILY  
12.  Fish Oil (Omega 3) 1000 mg PO BID  
13.  Metoprolol Succinate XL 200 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Norco (HYDROcodone-acetaminophen) ___ mg oral Q6H:PRN  
16.  Omeprazole 20 mg PO DAILY  
17.  Rivaroxaban 15 mg PO DAILY  
18.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
19.  Tiotropium Bromide 1 CAP IH DAILY  
20.  Torsemide 5 mg PO DAILY  
21.  TraZODone 25 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoxia 
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Mr ___,  
It was a pleasure to take care of you at ___.  

WHY WAS I HERE?  
You were admitted to the hospital because of your low oxygen.

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you had a chest xray that 
showed severe emphysema. 
- You also had your oxygen saturation checked while you were 
walking around. It was decreased, but you preferred to have 
yourself evaluated by your pulmonologist for home oxygen. 

 
WHAT SHOULD I DO WHEN I GET HOME?  
1) Please follow up at your outpatient appointments.  
2) Please take your medications as prescribed. 

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___